US05208228
B. 17-Ethyl-1,14-dihydroxy-12-[2'-(3"-allyloxy-4"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (100 mg in 1.5 ml 33% methylene chloride in cyclohexane) allyl trichloroacetimidate (53 μl neat) was added and the reagents allowed to mix for 5 minutes. Trifluoromethanesulfonic acid (2 μl neat) was added slowly via syringe and the mixture stirred at room temperature. After 3 hours the reaction was quenched by the addition of saturated sodium bicarbonate and extracted with ethyl acetate (3×5 ml). The combined organics were washed with brine and dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel (ethyl acetate: hexane (1:1)+1% methanol) gave the title compounds (21 mg 4"-ether; 17 mg 3"-ether).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 1.5 ml, 100 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)O)C)C)O)=O | C42H67NO12
reactant | allyl trichloroacetimidate | 53 μl | ClC(C(OCC=C)=N)(Cl)Cl | C5H6Cl3NO
reactant | Trifluoromethanesulfonic acid | 2 μl | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(3"-allyloxy-4"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 21 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OCC=C)C)C)O)=O | C45H71NO12
